US07534905B2
Enantioselective allylation of acetic acid benzylidene-hydrazide (8) to give (1R)-acetic acid N′-(1-phenyl-but-3-enyl)-hydrazide: To a cooled (10° C.) solution of (4S,5S)-2-Allyl-2-chloro-3,4-dimethyl-5-phenyl-[1,3,2]oxazasilolidine (9.90 g, 37.0 mmol) in CH2Cl2 (300 mL) was added acetic acid benzylidene-hydrazide (5.00 g, 30.8 mol) as a solid. The resulting solution was stirred for 16 hours and methanol (40 mL) was then added. After 15 min all volatiles were removed by distillation and the residue was diluted with EtOAc (150 mL) and H2O (500 mL). The phases were separated and the aqueous layer was extracted with EtOAc (2×150 mL). The combined organic layers were washed with H20 and brine, dried (MgSO4), filtered and concentrated. Analysis of the residue by HPLC revealed an ee of 87%. The residue was dissolved in boiling toluene (80 mL) and the solution was then cooled to ambient temperature. Pentane (380 mL) was layered on top of the toluene solution and the resulting biphasic solution was allowed to stand for 16 hours. The resulting crystalline solid precipitate was filtered, washed (pentane:toluene (5:1)) and then dried in vacuo to give 5.04 g (80%) of (1R)-acetic acid N′-(1-phenyl-but-3-enyl)-hydrazide in 98% ee.

reactant | (4S,5S)-2-Allyl-2-chloro-3,4-dimethyl-5-phenyl-[1,3,2]oxazasilolidine | 37.0 mmol, 9.90 g | C(C=C)[Si]1(O[C@H]([C@@H](N1C)C)C1=CC=CC=C1)Cl | C13H18ClNOSi
reactant | acetic acid benzylidene-hydrazide | 30.8 mol, 5.00 g | C(C1=CC=CC=C1)=NNC(C)=O | C9H10N2O
reactant | methanol | 40 mL | CO | CH4O
solvent | CH2Cl2 | 300 mL | C(Cl)Cl | CH2Cl2
product | (1R)-acetic acid N′-(1-phenyl-but-3-enyl)-hydrazide | 5.04 g, 80% | C1(=CC=CC=C1)[C@@H](CC=C)NNC(C)=O | C12H16N2O
